US08076125B2
(iii) 2-nitrobenzyl undec-10-enoate
One equivalent of 2-nitrobenzyl alcohol (2.39 g, 15.65 mmol) was combined with one equivalent of undecylenic acid (2.88 g, 15.65 mmol) and 0.1 equivalents of DMAP and dissolved in 50 mL CH2Cl2. DCC (3.23 g, 15.65 mmol) was dissolved in 30 mL CH2Cl2 and slowly added to the mixture while stirring. A white precipitate slowly formed after about 5 minutes. The reaction mixture was stirred at room temperature overnight. The precipitate was filtered off by vacuum filtration and the filtrate was concentrated by rotovap. Silica gel column chromatography with CH2Cl2/MeOH (v/v 50:1) as eluent was used for purification. The product was dried over Na2SO4, solvent removed by rotovap, and dried under vacuum producing a yellow oil. Yield: 3.91 g (78.2%). 1H-NMR (CDCl3) δ (ppm): 8.1 (d, 1H, Ar), 7.7 (t, 1H, Ar), 7.6 (d, 1H, Ar), 7.5 (t, 1H, Ar), 5.8 (m, 1H, CH═CH2), 5.5 (s, 2H, CH2—O) 4.9 (dd, 2H, CH2═CH), 2.4 (t, 2H, CH2—C═O), 2.0 (q, 2H, CH2), 1.6 (m, 2H, CH2), 1.2 (m, 10H, CH2). 13C NMR (CDCl3) δ (ppm): 173.5, 147.9, 139.5, 134.1, 132.7, 129.4, 129.1, 125.4, 114.6, 63.2, 34.5, 34.2, 29.7, 29.6, 29.5, 29.4, 29.3, 25.3. MS (ESI): (M+H)+=320.30 (calc. 320.40).

reactant | 2-nitrobenzyl alcohol | 15.65 mmol, 2.39 g, One equivalent | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | undecylenic acid | 15.65 mmol, 2.88 g, one equivalent | C(CCCCCCCCC=C)(=O)O | C11H20O2
reactant | DCC | 15.65 mmol, 3.23 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.1 equivalents | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-nitrobenzyl undec-10-enoate | C(CCCCCCCCC=C)(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C18H25NO4
